US07166621B2
Methyl 2-(5,6-dichloro-3-pyridyloxy)butyrate was hydrolysed with aqueous sodium hydroxide, using a similar procedure to that described in Example1, Stage 2 to provide 2-(5,6-dichloro-3-pyridyloxy)butyric acid as a solid, m.p. 117–118° C.

reactant | Methyl 2-(5,6-dichloro-3-pyridyloxy)butyrate | ClC=1C=C(C=NC1Cl)OC(C(=O)OC)CC | C10H11Cl2NO3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(5,6-dichloro-3-pyridyloxy)butyric acid | ClC=1C=C(C=NC1Cl)OC(C(=O)O)CC | C9H9Cl2NO3
